US08895566B2
A solution of Na2CO3 (1.65 mL, 1M) was added to a solution of (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (253 mg, 1.50 mmol) and 4-methoxycarbonylphenylboronic acid (297 mg, 1.65 mmol) in 1,4-dioxane (4.5 mL). The mixture was sparged with N2 for 2 minutes. The catalyst Pd(dppf)Cl2 (98 mg, 0.12 mmol) was added in one portion. The reaction vial was sealed and heated in microwave to 110° C. for 30 minutes. Water (20 mL) was added to the mixture and extracted with DCM (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (0-50% EtOAc/hexane gradient elution) to give (R)-methyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)benzoate as an oil (300 mg, 70%). 1H NMR (CDCl3, 500 MHz) δ 9.07 (s, 1H), 8.16 (d, =8.5 Hz, 2H), 7.88 (d, J=8.5 Hz, 2H), 3.96 (s, 3H), 3.81-3.76 (m, 1H), 3.15-3.00 (m, 2H), 2.44-2.40 (m, 1H), 1.78-1.74 (m, 1H), 1.01 (d, J=6.5 Hz, 3H).

reactant | Na2CO3 | 1M, 1.65 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.50 mmol, 253 mg | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
reactant | 4-methoxycarbonylphenylboronic acid | 1.65 mmol, 297 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | Water | 20 mL | O | H2O
solvent | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 98 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-methyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)benzoate | 300 mg, 70% | C[C@@H]1CCC=2N=CN=C(C21)C2=CC=C(C(=O)OC)C=C2 | C16H16N2O2
